US07867980B2
3-(4-Bromophenyl)piperidine
N-Bromosuccinimide (912 mg, 5.12 mmol) was added to a solution of 1.18 g (7.32 mmol) of 3-phenylpiperidine in 50% sulfuric acid (12 ml), and the mixture was stirred at 70° C. for 30 min. A saturated aqueous potassium carbonate solution was added to the reaction solution under ice cooling, and the mixture was extracted twice with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, was filtered, and was then concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol:concentrated aqueous ammonia=9:0.6:0.06) to give 352 mg (yield 20%) of the title compound.

reactant | N-Bromosuccinimide | 5.12 mmol, 912 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-phenylpiperidine | 7.32 mmol, 1.18 g | C1(=CC=CC=C1)C1CNCCC1 | C11H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(4-Bromophenyl)piperidine | 352 mg, yield 20% | BrC1=CC=C(C=C1)C1CNCCC1 | C11H14BrN
